US07465825B2
Step 3. 5-{2-[4′-(2-Benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]-dioxane-4,6-dione
A solution of 2-benzyl-3-[4′-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran (500 mg, 1.22 mmol) in anhydrous DMSO (5 mL) was added to a stirred suspension of 5-[2-(4-bromophenyl)-2-oxoethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione (436 mg, 1.22 mmol) and tripotassium phosphate (1.04 g, 4.88 mmol) in anhydrous DMSO (5 mL). [1,1′-bis-(Diphenylphosphino)ferrocene]dichloropalladium(II)-DCM complex (100 mg, 0.12 mmol) was added as a solid, and the resulting suspension was heated to 80° C. for 2 hrs. The reaction mixture was cooled to room temperature, diluted with diethyl ether (150 mL), washed with water (2×50 mL), brine (3×50 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 50-60% ethyl acetate/heptane as eluent, afforded the title compound as an off-white solid (502 mg): 1H-NMR (DMSO-d6, 300 MHz): δ 8.12 (2H, d, J=8 Hz, Ar—H), 7.92 (4H, d, J=6 Hz, Ar—H), 7.53-7.69 (4H, m, Ar—H), 7.26 (7H, m, Ar—H), 4.82 (1H, s, CH), 4.26 (2H, s, PhCH2), 3.86 (2H, CH2CO), 1.84 (3H, s, Me), 1.74 (3H, s, Me).

reactant | 2-benzyl-3-[4′-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran | 1.22 mmol, 500 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C27H27BO3
reactant | 5-[2-(4-bromophenyl)-2-oxoethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 1.22 mmol, 436 mg | BrC1=CC=C(C=C1)C(CC1C(OC(OC1=O)(C)C)=O)=O | C14H13BrO5
reactant | tripotassium phosphate | 4.88 mmol, 1.04 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 5-{2-[4′-(2-Benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]-dioxane-4,6-dione | 502 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)C(CC3C(OC(OC3=O)(C)C)=O)=O)C=C1)C=CC=C2 | C35H28O6
